US06262103B1
Step 1: 6,6-Dimethyl-1-(3-hydroxy-1-oxoprop-2-enyl)-3-methylthio-4,5,6,7-tetrahydrobenzo [c]thiophen-4-one
To a suspension of sodium hydride (149 mg of a 60% dispersion in oil. 3.7 mmol) in THF (7 mL) was added ethyl formate (0.75 mL, 9.3 mmol) at 0° C., under nitrogen. After addition a solution of 1-acetyl-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo [c]thiophen-4-one (0.5 g, 1.9 mmol) in THF (7 mL) was added. The mixture was stirred overnight at room temperature. Methanol (0.5 mL) and water (0.5 mL) were then added to the mixture and the solvent removed in vacuo. The residue was dissolved in water and acidified using 1M HCl. The resultant solid was collected by filtration then partitioned between EtOAc (30 mL) and water (30 mL). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was triturated with ether and the title compound (0.4 g, 80%) was isolated as a yellow solid. 1H NMR (360 MHz, CDCl3) δ 1.09 (6H, s), 2.43 (2H, s), 2.63 (3H, s), 3.08 (2H, s), 5.85 (1H, d, J=5.1 Hz), 7.77 (1H, d, J=5.1 Hz), 14.90 (1H, br s). MS (ES+) 297 (M+1).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | 9.3 mmol, 0.75 mL | C(=O)OCC | C3H6O2
reactant | 1-acetyl-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo [c]thiophen-4-one | 1.9 mmol, 0.5 g | C(C)(=O)C=1SC(=C2C1CC(CC2=O)(C)C)SC | C13H16O2S2
reactant | Methanol | 0.5 mL | CO | CH4O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 6,6-Dimethyl-1-(3-hydroxy-1-oxoprop-2-enyl)-3-methylthio-4,5,6,7-tetrahydrobenzo [c]thiophen-4-one | 0.4 g, 80% | CC1(CC(C=2C(=C(SC2SC)C(C=CO)=O)C1)=O)C | C14H16O3S2
